US07528160B2
(6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propoxy}-benzo[b]thiophen-3-yl)-acetic acid
(6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propoxy}-benzo[b]thiophen-3-yl)-acetic acid ethyl ester (100 mg) is taken into ethanol (1 mL) and treated with NaOH (5.0 N, 1 mL) at 50° C. for 2 hrs. The reaction mixture is acidified with 5 N HCl, extracted with ethyl ether, dried over sodium sulfate. Concentration yields the title compound. MS (ES): 492.1(M++1), the structure is also confirmed by proton NMR.

reactant | (6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propoxy}-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 100 mg | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)OCC(C)C=2N=C(SC2C)C2=CC=C(C=C2)C(F)(F)F)=O | C26H24F3NO3S2
reactant | NaOH | 5.0 N, 1 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propoxy}-benzo[b]thiophen-3-yl)-acetic acid | CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(COC=1C=CC2=C(SC=C2CC(=O)O)C1)C | C24H20F3NO3S2
